US04042397
Malonyldichloride (168 g, 1.2 mole) was added with stirring to N-cyclohexyl-N'-(2-fluorosulphonylphenyl)urea (270 g, 0.9 mole) in dry chloroform (1500 ml). This mixture was heated for 6 hours at 40°-50° C. and then cooled below 20° C., whereupon 300 ml of methanol were added cautiously. The reaction mixture was then evaporated under reduced pressure yielding 253 g of 1-cyclohexyl-3-(2-fluorosulphonylphenyl)barbituric acid. This sulphofluoride was converted into the sulphonamide as described under b) with a nearly quantitative yield.

reactant | Malonyldichloride | 1.2 mole, 168 g | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
reactant | N-cyclohexyl-N'-(2-fluorosulphonylphenyl)urea | 0.9 mole, 270 g | C1(CCCCC1)NC(=O)NC1=C(C=CC=C1)S(=O)(=O)F | C13H17FN2O3S
reactant | methanol | 300 ml | CO | CH4O
solvent | chloroform | 1500 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-cyclohexyl-3-(2-fluorosulphonylphenyl)barbituric acid | 253 g, quantitative yield | C1(CCCCC1)N1C(=O)N(C(=O)CC1=O)C1=C(C=CC=C1)S(=O)(=O)F | C16H17FN2O5S
